US08791119B2
To a solution cooled to 0° C. of 10.0 g (35.6 mmol) of 1-tert-butyl 3-methyl piperazine-1,3-dicarboxylate hydrochloride (CAS 129799-08-2) in 350 ml of dichloromethane are added 11.0 ml (79.1 mmol) of triethylamine and then, over 35 minutes, 3.6 ml (40 mmol) of cyclopropylcarbonyl chloride dissolved in 50 ml of dichloromethane. The medium is stirred from 0° C. to room temperature over 4 hours 30 minutes and is then washed with twice 40 ml of water and dried over sodium sulfate. The solvent is evaporated off under reduced pressure and the residue is chromatographed on a column of 90 g of silica gel, eluting with a mixture of 5 to 50% ethyl acetate in dichloromethane, to give 11.5 g 1-tert-butyl 3-methyl 4-cyclopropanecarbonylpiperazine-1,3-dicarboxylate in the form of a viscous oil.

reactant | 1-tert-butyl 3-methyl piperazine-1,3-dicarboxylate hydrochloride | 35.6 mmol, 10.0 g | Cl.N1(CC(NCC1)C(=O)OC)C(=O)OC(C)(C)C
reactant | triethylamine | 79.1 mmol, 11.0 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropylcarbonyl chloride | 40 mmol, 3.6 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-tert-butyl 3-methyl 4-cyclopropanecarbonylpiperazine-1,3-dicarboxylate | 11.5 g | C1(CC1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C15H24N2O5
